US09290451B2
N-(1-Amino-2,4-dimethyl-1-oxopentan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 2-amino-2,4-dimethyl-pentanamide (CAN 113509-60-7) as starting materials, LC-MS (UV peak area/ESI) 100%, 360.2287 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 2-amino-2,4-dimethyl-pentanamide | NC(C(=O)N)(CC(C)C)C | C7H16N2O
product | N-(1-Amino-2,4-dimethyl-1-oxopentan-2-yl)-5-cyclopropyl-6-(cyclopropylmethoxy)picolinamide | NC(C(CC(C)C)(C)NC(C1=NC(=C(C=C1)C1CC1)OCC1CC1)=O)=O | C20H29N3O3
